US08012956B2
4-(aminocarbonyl)-2-methyl-5-{[2-(methyloxy)ethyl]oxy}benzoic acid
Synthesized according to the method of reagent preparation 41 by replacement of step 6 with the conversion of methyl 4-cyano-5-iodo-2-methylbenzoate to methyl 4-cyano-5-hydroxy-2-methylbenzoate according to the method described in Chemical & Pharmaceutical Bulletin (2007), 55(9), 1361-1364 followed by phenol alkylation with 2-bromoethyl methyl ether then proceeding with steps 7 and 8. MS (EI) for C12H15NO5: 254 (MH+).

reactant | methyl 4-cyano-5-iodo-2-methylbenzoate | C(#N)C1=CC(=C(C(=O)OC)C=C1I)C | C10H8INO2
reactant | methyl 4-cyano-5-hydroxy-2-methylbenzoate | C(#N)C1=CC(=C(C(=O)OC)C=C1O)C | C10H9NO3
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | 2-bromoethyl methyl ether | COCCBr | C3H7BrO
product | 4-(aminocarbonyl)-2-methyl-5-{[2-(methyloxy)ethyl]oxy}benzoic acid | NC(=O)C1=CC(=C(C(=O)O)C=C1OCCOC)C | C12H15NO5
